US05135932
6-[3-[2-[3-(4-(2-Cyclopropylmethoxy-ethyl)phenoxy)-2-hydroxypropylamino]ethoxy]phenyl]-4,5-dihydro-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-[4-(2-cyclopropylmethoxy-ethyl)phenoxy]-2,3-epoxypropane and 6-[3-(2-aminoethoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone.

reactant | 1-[4-(2-cyclopropylmethoxy-ethyl)phenoxy]-2,3-epoxypropane | C1(CC1)COCCC1=CC=C(OCC2CO2)C=C1 | C15H20O3
reactant | 6-[3-(2-aminoethoxy)phenyl]-4,5-dihydro-3(2H)-pyridazinone | NCCOC=1C=C(C=CC1)C=1CCC(NN1)=O | C12H15N3O2
product | 6-[3-[2-[3-(4-(2-Cyclopropylmethoxy-ethyl)phenoxy)-2-hydroxypropylamino]ethoxy]phenyl]-4,5-dihydro-3(2H)-pyridazinone | C1(CC1)COCCC1=CC=C(OCC(CNCCOC=2C=C(C=CC2)C=2CCC(NN2)=O)O)C=C1 | C27H35N3O5
